US08115006B2
Preparation of 5-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenylcarbamoyl)-1-(3-chloropyridin-2-yl)-4,5-dihydro-1H-pyrazole-3-yl 4-methylbenzenesulfonate
A mixed liquid comprising 2.0 g of N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide and 41 ml of N,N-dimethylformamide was cooled to 0° C., and 0.2 g of sodium hydride (60% oil suspension) was added. After stirring for one hour, 1.2 g of p-toluenesulfonyl chloride was added at 0° C. After stirring for 1.5 hours, the reaction liquid was poured to 120 ml of a 1 M HCl aqueous solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 1/1) to obtain 2.45 g of the desired product in the form of a paste.

reactant | N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-3-hydroxy-4,5-dihydro-1H-pyrazole-5-carboxamide | 2.0 g | ClC1=CC(=C(C=C1)NC(=O)C1CC(=NN1C1=NC=CC=C1Cl)O)C(NC(C)C1CC1)=O | C21H21Cl2N5O3
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 41 ml | CN(C=O)C | C3H7NO
product | 5-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenylcarbamoyl)-1-(3-chloropyridin-2-yl)-4,5-dihydro-1H-pyrazole-3-yl 4-methylbenzenesulfonate | 2.45 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=NN(C(C1)C(NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)=O)C1=NC=CC=C1Cl | C28H27Cl2N5O5S
